US07569536B2
Indoline (402 μl, 3.59 mmol, commercially available product) and N,N-diisopropylethylamine (619 μl, 3.59 mmol) were sequentially added at 0° C. to a N,N-dimethylformamide (DMF; 2 ml) solution of 1-fluoro-2-nitro-4-(trifluoromethyl)benzene (498 mg, 2.38 mmol, commercially available product). The resulting mixture was warmed to room temperature and stirred for one hour. The mixture was then heated at 70° C. for 5.5 hours with stirring. The mixture was cooled to room temperature. Water was added to the mixture, and the resulting mixture was extracted three times with ethyl acetate. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (30 g, hexane/ethyl acetate=20/1). Thus, 1-(2-nitro-4-(trifluoromethyl)phenyl)indoline (730 mg, 99.4%) was yielded as a deep red oily material.

reactant | Indoline | N1CCC2=CC=CC=C12 | C8H9N
reactant | N,N-diisopropylethylamine | 3.59 mmol, 619 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | 1-fluoro-2-nitro-4-(trifluoromethyl)benzene | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
solvent | Water | O | H2O
product | 1-(2-nitro-4-(trifluoromethyl)phenyl)indoline | 730 mg, 99.4% | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)N1CCC2=CC=CC=C12 | C15H11F3N2O2
